US06720338B2
2-((4-chlorophenyl)thio)ethanamine
A solution of sodium metal (22.5 mg, 0.98 mmol) in ethanol (2.0 mL) was treated with 2-bromoethylamine hydrobromide (100.0 mg, 0.49 mmol) and 4-chlorobenzenethiol (71.0 mg, 0.49 mmol), heated to 75° C. for 18 hours, and concentrated. The concentrate was partitioned between water (2.0 mL) and diethyl ether (5.0 mL) and the organic phase was dried (MgSO4), filtered, and concentrated to provide the desired product. MS (DCI) m/e 188 (M+H)+.

reactant | sodium | 0.98 mmol, 22.5 mg | [Na] | Na
reactant | 2-bromoethylamine hydrobromide | 0.49 mmol, 100.0 mg | Br.BrCCN
reactant | 4-chlorobenzenethiol | 0.49 mmol, 71.0 mg | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | ethanol | 2.0 mL | C(C)O | C2H6O
product | 2-((4-chlorophenyl)thio)ethanamine | ClC1=CC=C(C=C1)SCCN | C8H10ClNS
